US07091353B2
3-[(5-Hydroxymethyl-furan-2-ylmethyl)-amino]-phthalic acid dimethyl ester
5-Hydroxymethyl-furan-2-carbaldehyde (0.95 ml, 7.5 mmol) was treated in the same manner as described above for the synthesis of 3-pentylamino-phthalic acid dimethyl ester. The residue (oil) was purified by chromatography (SiO2, 40/60 ethyl acetate/hexanes) to give 0.97 g (76%) of yellow oil: 1H NMR (CDCl3) δ 7.35–7.27 (m, 1H), 7.05 (bs, 1H), 6.87–6.83 (m, 2H), 6.21 (d, J=3.1 Hz, 1H), 6.17 (d, J=3.2 Hz, 1H), 4.57 (s, 2H), 4.38 (bs, 2H) 3.86 (s, 3H), 3.83 (s, 3H), 1.98 (bs, 1H).

reactant | 5-Hydroxymethyl-furan-2-carbaldehyde | 7.5 mmol, 0.95 ml | OCC1=CC=C(O1)C=O | C6H6O3
reactant | 3-pentylamino-phthalic acid dimethyl ester | COC(C=1C(C(=O)OC)=C(C=CC1)NCCCCC)=O | C15H21NO4
product | 3-[(5-Hydroxymethyl-furan-2-ylmethyl)-amino]-phthalic acid dimethyl ester | 0.97 g, 76% | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1OC(=CC1)CO)=O | C16H17NO6
